US07338959B2
2-Methyl-5-{4-[methyl-(1-methyl-2-phenethylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-phenethyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 5-amino-2-methyl-benzenesulfonamide (46 mg, 0.25 mmol) as a white solid (88 mg, 61%). 1H NMR (400 MHz, d6-DMSO) δ 10.25 (br s, 1H), 9.22 (br s, 1H), 8.44 (s, 1H), 7.87 (d, J=6.8 Hz, 1H), 7.58-7.64 (m, 2H), 7.18-7.41 (m, 10H), 5.75 (d, J=5.6 Hz, 1H), 3.68-3.73 (m, 2H), 3.66 (s, 3H), 3.48 (s, 3H), 2.97 (m, 2H), 2.50 (s, 3H) ppm. MS (ESI) m/z=543 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-phenethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCCC2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.25 mmol, 46 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 2-Methyl-5-{4-[methyl-(1-methyl-2-phenethylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride | Cl.CC1=C(C=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCCC2=CC=CC=C2)C)C=C1)C)S(=O)(=O)N | InChI=1S/C28H30N8O2S.ClH/c1-19-9-10-21(17-25(19)39(29,37)38)32-27-30-16-14-26(34-27)35(2)22-11-12-24-23(18-22)33-28(36(24)3)31-15-13-20-7-5-4-6-8-20;/h4-12,14,16-18H,13,15H2,1-3H3,(H,31,33)(H2,29,37,38)(H,30,32,34);1H
